Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zosyn / Oxaliplatin
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with h/o refractory metastatic colon ca, afib, htn arrived 
in ___ clinic today for ___ plus bevacizumab with 
progressive abd pain treated with (controlled with 4 
percocets/day). He also notes dec appetite and diarrhea for 
months with h/o guiauc pos stools (last admission in early ___ 
thought to be from the colon ca. Avastin was held given abd 
pain, although no clinical suspicion for perforation. The pain 
began 2 wks ago, has been progressive, and is focused in the 
lower abdomen. Given his persistent pain, the pt was sent to the 
ED where he was found to be hypotensive with SBP in ___, given 
IVF to BP 95/60, HR 60 with low grade temps, given 
vanc/levo/flagyl x1 in ED. A CT torso revealed progressive 
disease but no acute process. He notes a ___ lb wt loss over the 
last 2 months, and decreased appetite and general PO intake. No 
n/v, CP, SOB, chills, nightsweats, HA, blurry vision or any 
other sx. The patient is admitted for further evaluation and 
control of his abdominal pain.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
======================
ONCOLOGIC HISTORY:  ___ was initially diagnosed with T3N1
stage IIIB colon cancer in ___ at which time he underwent
left colectomy and eight cycles of FOLFOX/Avastin.  In ___ 
he
underwent liver metastasectomy.  His disease was stable for a
period of time; however, he developed pancreatic metastases and
underwent CyberKnife therapy in ___.  He was restarted on
treatment with FOLFOX/Avastin in ___ when a PET scan showed
diffuse FDG avid disease in the left supraclavicular region,
retroperitoneum, as well as within the liver and left lower lobe
of the lung.  His CEA dropped significantly on this, but with
cycle #5 he developed a reaction to oxaliplatin and chemotherapy
was discontinued as of ___.  In ___ he was started on
irinotecan.  This was dose reduced for leukopenia and
thrombocytopenia with cycle #6 in ___.  With cycle #10 on
___, he was switched to irinotecan 125 mg/m2 every two
weeks.  He was admitted to ___ ___ with an
upper GI bleed in the setting of a new stomach mass noted on 
EGD.
Pathology from this showed colon cancer, and he was treated with
radiation.  He began irinotecan/Cetuximab ___.  This was
changed to single agent cetuximab when he developed progressive
severe diarrhea.  His primary tumor showed a KRAS mutation,
however, so cetuximab was discontinued as of ___.  He 
began
treatment with capecitabine on ___.  Due to further 
disease
progression in ___, he resumed therapy was ___. 
Bevacizumab was added to ___ on ___.
.
PAST MEDICAL HISTORY:
====================
# Hypertension  
# Depression  
# pAfib (___)
# oromandibular dystonia
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
PHYSICAL EXAM:
=============
Vitals - T:100.0  BP:93/58  HR:67  RR:16  02 sat:96RA  
GEN:  alert and oriented x3, comfortable, no acute distress, 
cachectic
HEENT:  PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, teeth clenching
CARDIOVASCULAR:  regular rate and rhythm without murmurs, rubs,
or gallops
LUNGS:  clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
ABDOMEN: NABS, soft, tender to palpation in the lower abdomen,
no rebounding, no guarding.  No masses, no hepatosplenomegaly.
EXTREMITIES:  no clubbing, cyanosis, or edema
SKIN:  no rashes, petechia, lesions, or echymoses
NEURO: CN II-XII intact
 
Pertinent Results:
___ 03:11AM BLOOD WBC-5.4 RBC-2.91* Hgb-9.2* Hct-27.1* 
MCV-93 MCH-31.7 MCHC-34.0 RDW-16.5* Plt ___
___ 11:54AM BLOOD WBC-5.6 RBC-2.92* Hgb-9.1* Hct-27.1* 
MCV-93 MCH-31.3 MCHC-33.7 RDW-16.8* Plt ___
___ 11:54AM BLOOD Neuts-91.9* Lymphs-5.7* Monos-2.0 Eos-0.3 
Baso-0.1
___ 03:11AM BLOOD Glucose-101 UreaN-9 Creat-0.5 Na-134 
K-3.8 Cl-99 HCO3-27 AnGap-12
___ 11:54AM BLOOD Glucose-100 UreaN-13 Creat-0.5 Na-132* 
K-3.7 Cl-98 HCO3-26 AnGap-12
___ 03:11AM BLOOD ALT-30 AST-89* AlkPhos-235* TotBili-1.2
___ 11:54AM BLOOD ALT-34 AST-110* AlkPhos-264* TotBili-0.9
___ 11:54AM BLOOD Lipase-14
___ 03:11AM BLOOD Calcium-7.5* Phos-2.3* Mg-1.6
___ 11:12AM BLOOD Lactate-2.2*

___ Blood cultures x2 pending, no growth to date

EXAMINATION: CT of the abdomen with intravenous contrast. 
  
COMPARISONS: Comparison to recent CT from ___ and CT of the 
torso from 
___. 
  
TECHNIQUE: Helically acquired axial images were obtained from 
the lung bases 
to the pubic symphysis after the administration of oral and 130 
cc of Optiray 
intravenous contrast. Coronal and sagittal reformations were 
obtained. Three- 
minute delays were obtained through the abdomen. 
  
FINDINGS: 
  
CT OF THE ABDOMEN WITH INTRAVENOUS CONTRAST: There is a small- 
to moderate- 
sized right pleural effusion with associated adjacent 
atelectatic changes. 
There is an irregular in appearance 17 x 13 mm pulmonary nodule 
located in the 
left lung base, not significantly changed since recent 
examination from 
___, best seen on 2:7. No other pulmonary parenchymal 
opacities or 
pulmonary nodules. 
  
There are innumerable hypodense lesions scattered throughout the 
entire liver 
with expansion of the surrounding parenchyma, with both 
increased in number 
and size of pre-existing lesions since recent CT examination 
from ___, 
compatible with interval progression of known metastatic 
disease. In 
addition, there is a dominant mass seen centered within the 
lesser sac, best 
appreciated on 2:33, with some interval progression in size, now 
measuring 70 
x 51 mm, where on prior examination, it measured 60 x 53 mm. 
There is 
subjacent compression of the small bowel in immediate proximity 
to this mass 
with some gaseous distention of the third and fourth portions of 
the duodenum; 
however, contrast is seen distal to this point with contrast 
flowing freely 
through to the mid-to-distal ileum without evidence of small 
bowel 
obstruction. In addition, there is invasion of this mass to the 
adjacent 
proximal jejunal loop and encasement of both the celiac and SMA 
vessels by 
this mass. The SMV and splenic vein are obliterated, and the 
portal vein is 
distally reconstituted via collaterals. There is metastatic 
retroperitoneal 
lymphadenopathy. There is a moderate amount of intra-abdominal 
fluid that has 
increased in extent with some areas of higher attenuation seen 
distally, 
particularly about the right paracolic gutter that is suggestive 
of complex 
components. The pancreas is partially encased by the large known 
metastatic 
focus. 
  
The patient is status post left hemicolectomy. There is no 
abnormal stranding 
surrounding the remainder of the colon that would suggest 
colitis. 
  
The kidneys enhance symmetrically with excretion of contrast 
through the 
ureters. 
  
CT OF THE PELVIS WITH INTRAVENOUS CONTRAST: The rectum, sigmoid 
colon, and 
bladder are unremarkable. The prostate is stably enlarged. Again 

demonstrated is a small right fat-containing inguinal hernia. 
There is free 
fluid within the pelvis. No significant inguinal or pelvic 
lymphadenopathy. 
  
BONE WINDOWS: No suspicious lytic or sclerotic lesions 
identified. 
Degenerative change most prominent at the level of L5-S1. 

IMPRESSION: 
1. Interval progression of metastatic disease seen with hepatic 
metastases 
increased in both size and number, and a dominant mass centered 
in the lesser 
sac. 
2. No gross evidence of colitis or obstruction. 
The study and the report were reviewed by the staff radiologist. 

___. ___ 
___. ___ 
___ ___ 12:05 ___ 

 
Brief Hospital Course:
___ with refractory metastatic colon ca, HTN, Afib, treated on 
___ (avastin held) arrives with persistent abd pain 
for 2wks with an episode of hypotension/fever and CT with no e/o 
acute process. 
.
# Abd pain: The persistent nature and CT make it likely 
progression of metastatic disease as there has been interval 
increase in size and number of liver mets as well as the mass 
centered in the lesser sac. Moreover, there is compression of 
the duodenum but no evidence of obstruction, perforation, 
colitis or inflammation. On presentation the pt's transient 
hypotension, low-grade temps, and chronic guiauc pos diarrhea 
was also concerning for primary or superimposed infection/sepsis 
as well. Blood cultures, C Diff, stool cx, and O+P are still 
pending, however, they are no growth to date. The patient 
improved over 24 hours with bowel rest, and pain control with 
the patient's home percocet along with PO dilaudid for 
breakthrough pain.  
.
# Afib: Patient was stable without SVT or palpitations 
throughout the admission. His home metoprolol was continued. 
.
# Anxiety: Patient's home clonazapem was continued. 
.
# FEN/GI: Patient's home KCl 20meq was continued. There were no 
in hospital electrolyte disturbances.
.
#CODE: FULL
.
 
Medications on Admission:
HOME MEDICATIONS:  
================  
Medications - Prescription  
AMYLASE-LIPASE-PROTEASE [CREON 20] - 497 mg (66,400 unit-20,000  

unit-75,000 unit) Capsule, Delayed Release(E.C.) - ___ 
Capsule(s)  
by mouth with each meal  
CLONAZEPAM - 1 mg Tablet - 1 Tablet(s) by mouth twice a day  
DIPHENOXYLATE-ATROPINE [LOMOTIL] - 2.5 mg-0.025 mg Tablet - ___  

Tablet(s) by mouth four times a day as needed for diarrhea  
METOPROLOL TARTRATE - 25 mg Tablet - 1 Tablet(s) by mouth once a 
 
day  
ONDANSETRON [ZOFRAN ODT] - 4 mg Tablet, Rapid Dissolve - 1  
Tablet(s) by mouth three times a day as needed for nausea  
OPIUM TINCTURE - 10 mg/mL Tincture - 0.6mL Tincture(s) by mouth  

four times a day as needed for diarrhea  
OXYCODONE-ACETAMINOPHEN - 5 mg-325 mg Tablet - ___ Tablet(s) by  

mouth Q 6 hour as needed for pain (do not exceed 10 pills/day)  
PANTOPRAZOLE [PROTONIX] - 40 mg Tablet, Delayed Release (E.C.) - 
 
1 Tablet(s) by mouth daily  
POTASSIUM CHLORIDE - (Dose adjustment - no new Rx) - 20 mEq Tab  

Sust.Rel. Particle/Crystal - 1 Tab(s) by mouth daily  

Medications - OTC  
LOPERAMIDE [IMODIUM A-D] - (OTC) - 2 mg Tablet - 2 Tablet(s) by  

mouth four times a day as needed for diarrhea  
MULTIVITAMIN - (OTC) - Tablet - 1 Tablet(s) by mouth daily  

 
Discharge Medications:
1. Amylase-Lipase-Protease 33,200-10,000- 37,500 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
2. Clonazepam 0.5 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
3. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.  
8. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever.  
9. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours).
Disp:*60 Tablet Sustained Release 12 hr(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Abdominal pain secondary to metastatic colon 
cancer.

Secondary Diagnoses:
ONCOLOGIC HISTORY: ___ was initially diagnosed with T3N1  
stage IIIB colon cancer in ___ at which time he underwent  
left colectomy and eight cycles of FOLFOX/Avastin. In ___ he 
 
underwent liver metastasectomy. His disease was stable for a  
period of time; however, he developed pancreatic metastases and  

underwent CyberKnife therapy in ___. He was restarted on  
treatment with FOLFOX/Avastin in ___ when a PET scan showed  

diffuse FDG avid disease in the left supraclavicular region,  
retroperitoneum, as well as within the liver and left lower lobe 
 
of the lung. His CEA dropped significantly on this, but with  
cycle #5 he developed a reaction to oxaliplatin and chemotherapy 
 
was discontinued as of ___. In ___ he was started on  
irinotecan. This was dose reduced for leukopenia and  
thrombocytopenia with cycle #6 in ___. With cycle #10 on  
___, he was switched to irinotecan 125 mg/m2 every two  
weeks. He was admitted to ___ ___ with an  
upper GI bleed in the setting of a new stomach mass noted on 
EGD.  
Pathology from this showed colon cancer, and he was treated with 
 
radiation. He began irinotecan/Cetuximab ___. This was  
changed to single agent cetuximab when he developed progressive  

severe diarrhea. His primary tumor showed a KRAS mutation,  
however, so cetuximab was discontinued as of ___. He began 
 
treatment with capecitabine on ___. Due to further disease 
 
progression in ___, he resumed therapy was ___.  

Bevacizumab was added to ___ on ___.  
.  
PAST MEDICAL HISTORY:  
====================  
# Hypertension  
# Depression  
# paroxysmal Atrial fibrilation (___)  
# oromandibular dystonia  

 
Discharge Condition:
Afebrile, stable vital signs, tolerating POs, ambulatory, pain 
control improved

 
Discharge Instructions:
You were admitted with abdominal pain caused by your metastatic 
colon cancer. 

We treated you with pain medications, IV fluids, and bowel rest. 


Changes to your medications include addition of a pain 
medication called oxycontin.
.
1. Please take all medications as prescribed.
2. Please make all medical appointments as scheduled.
3. Please return to the ER if you have any concerning symptoms.
 
Followup Instructions:
___